US05403816
Preparation of isopropylideneamino 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate (Compound No. 337)
1.5 g (5 mmol) of 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinic acid, 0.8 g (5 mmol) of carbonyldiimidazole and 0.25 g (3 mmol) of N-isopropylidenehydroxylamine were stirred and refluxed in dichloromethane for 4 hours. After completion of the reaction, the reaction mixture was poured into water, and the dichloromethane layer was separated, washed with water and dried. Then, the solvent was distilled off under reduced pressure. The residual oily product was purified by column chromatography to obtain the desired product as colorless transparent crystals.

reactant | 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinic acid | 5 mmol, 1.5 g | NC1=CC=C(C(=N1)C(=O)O)OC1=NC(=CC(=N1)OC)OC | C12H12N4O5
reactant | carbonyldiimidazole | 5 mmol, 0.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-isopropylidenehydroxylamine | 3 mmol, 0.25 g | C(C)(C)=NO | C3H7NO
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | isopropylideneamino 6-amino-3-[(4,6-dimethoxypyrimidin-2-yl)oxy]picolinate | yield: 58.3% | NC1=CC=C(C(=N1)C(=O)ON=C(C)C)OC1=NC(=CC(=N1)OC)OC | C15H17N5O5
